US06468998B1
2,2-Di(2-thienyl)acetyl chloride (0.67 g) and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine (0.42 g) were reacted under the same conditions as in Example 53 to give (S)-2,2-di(2-thienyl)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)acetamide (0.2 g), melting point 96-98° C.

reactant | 2,2-Di(2-thienyl)acetyl chloride | 0.67 g | S1C(=CC=C1)C(C(=O)Cl)C=1SC=CC1 | C10H7ClOS2
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | 0.42 g | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-2,2-di(2-thienyl)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)acetamide | 0.2 g | S1C(=CC=C1)C(C(=O)N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F)C=1SC=CC1 | C22H23FN2OS2
